US07943612B2
(2-Methyl-4-prop-2-ynyloxy-phenoxy)-acetic acid methyl ester
To a solution of (4-hydroxy-2-methyl-phenoxy)-acetic acid methyl ester (5.1 g, 25.8 mmol) and K2CO3 (7.1 g, 51.5 mmol) in acetone (85 ml) was added propagylbromide (3.1 g, 25.7 mmol) at room temperature. The reaction mixture was stirred at room temperature for 2 days, and then filtered and evaporated in vacuo. The residue was purified on column chromatography using methylene chloride as eluent to give the title compound in 6.0 (100%) yield.

reactant | (4-hydroxy-2-methyl-phenoxy)-acetic acid methyl ester | 25.8 mmol, 5.1 g | COC(COC1=C(C=C(C=C1)O)C)=O | C10H12O4
reactant | K2CO3 | 51.5 mmol, 7.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 85 ml | CC(=O)C | C3H6O
product | (2-Methyl-4-prop-2-ynyloxy-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)OCC#C)C)=O | C13H14O4
